US04785017
Using the procedure of Example 12, 1.42 g of racemic-3,4-dihydro-2,5,7,8-tetramethyl-6-hydroxy-2H-1-benzopyran-2-acetic acid methyl ester was alkylated with allyl bromide (2.79 g) and sodium hydride (5.58 mmole) in anhydrous N,N-dimethylformamide. There was obtained 1.35 g (83.1%) of racemic-3,4-dihydro-2,5,7,8-tetramethyl-6-(2-propenyloxy)-2H-1-benzopyran-2-acetic acid methyl ester as a yellow oil, after column chromatographic purification (silica gel, 9:1 hexane-ethyl acetate).

reactant | racemic-3,4-dihydro-2,5,7,8-tetramethyl-6-hydroxy-2H-1-benzopyran-2-acetic acid methyl ester | 1.42 g | COC(CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C)=O | C16H22O4
reactant | allyl bromide | 2.79 g | C(C=C)Br | C3H5Br
reactant | sodium hydride | 5.58 mmole | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | racemic-3,4-dihydro-2,5,7,8-tetramethyl-6-(2-propenyloxy)-2H-1-benzopyran-2-acetic acid methyl ester | 1.35 g, 83.1% | COC(CC1(OC2=C(CC1)C(=C(C(=C2C)C)OCC=C)C)C)=O | C19H26O4
